US07307099B2
1-(toluene-4-sulfonyl)-1H-indole
The title compound was prepared from toluene-4-sulfonyl chloride and 1H-indole, according to Method A, described above. Yield 91%; mp 60-62° C.; 1H NMR (CDCl3) δ 8.0-8.03 (dd, J=8 Hz, 1H), 7.78 (d, J=7 Hz, 2H), 7.57 (d, J=4 Hz, 1H), 7.52-7.56 (m, 1H), 7.26-7.36 (m, 2H), 7.20-7.23 (d, J=8 Hz, 2H), 6.66-6.68 (dd, J=4 Hz, 1H), 2.30 (s, 3H); 13C NMR (CDCl3) δ 145.4, 135.7, 135.3, 131.2, 130.3, 127.2, 126.8, 124.9, 123.7, 121.8, 113.9, 109.5, 21.9; MS (ES+) m/z 271.93 (M+).

reactant | toluene-4-sulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 1H-indole | N1C=CC2=CC=CC=C12 | C8H7N
product | 1-(toluene-4-sulfonyl)-1H-indole | Yield 91% | C1(=CC=C(C=C1)S(=O)(=O)N1C=CC2=CC=CC=C12)C | C15H13NO2S
